US05162523
rac-1-Ethyl-6-fluoro-1,4-dihydro-7-(3-methyl-1-piperazinyl)-4-oxo-3-quinoline-carboxylic acid monosodium salt
A mixture of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid [J. Med. Chem., 23, 1358 (1980)] (0.52 g, 2 mmol) and 2-methylpiperazine (0.8 g, 8 mmol) was heated at 175° for 5 hours. The residue was dissolved in ethylacetate (10 mL) and chloroform (10 mL), and a solution of sodium-2-ethyl- hexanoate (0.33 g, 2 mmol) in ethyl acetate (20 mL) was added. The mixture was stirred for 30 minutes and the precipitate was collected. The crude product was purified by preparative liquid chromatography (C-18 reverse phase, gradient 0-40% acetonitrile in water) to give a pale yellow lyophilized solid (0.5 g, 75% yield).

reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 2 mmol, 0.52 g | ClC1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C12H9ClFNO3
reactant | 2-methylpiperazine | 8 mmol, 0.8 g | CC1NCCNC1 | C5H12N2
reactant | sodium-2-ethyl- hexanoate | 2 mmol, 0.33 g | C(C)C(C(=O)[O-])CCCC.[Na+]
solvent | ethylacetate | 10 mL | C(C)OC(C)=O | C4H8O2
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | rac-1-Ethyl-6-fluoro-1,4-dihydro-7-(3-methyl-1-piperazinyl)-4-oxo-3-quinoline-carboxylic acid monosodium salt | 0.5 g, 75% yield | [Na+].C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C)F)=O)C(=O)[O-] | InChI=1S/C17H20FN3O3.Na/c1-3-20-9-12(17(23)24)16(22)11-6-13(18)15(7-14(11)20)21-5-4-19-10(2)8-21;/h6-7,9-10,19H,3-5,8H2,1-2H3,(H,23,24);/q;+1/p-1
